US08895313B2
4-Nitro-N-[4-(6-methylbenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Amide Coupling section using 1,2-dichloroethane 2-(4-aminophenyl)-6-methylbenzothiazole (2.5 g, 10.4 mmol) and 4-nitrobenzoyl chloride (2.12 g, 11.4 mmol) in dry pyridine (30 ml) to give the title compound (4.0 g, 99%) as small tan-coloured needles after recrystallisation from DMF/water.

reactant | 1,2-dichloroethane 2-(4-aminophenyl)-6-methylbenzothiazole | 10.4 mmol, 2.5 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C.ClCCCl
reactant | 4-nitrobenzoyl chloride | 11.4 mmol, 2.12 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-Nitro-N-[4-(6-methylbenzothiazol-2-yl)-phenyl]-benzamide | 4.0 g, 99% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)C)C=C1 | C21H15N3O3S
